US06891066B2
Step C: Preparation of 2-(4-butyl-2-fluoroanilino)-3,4-difluoro-N-(2-hydroxyethoxy)benzamide
The title compound was prepared from reaction of 2-(4-butyl-2-fluoroanilino)-3,4-difluorobenzoic acid with CDI and 2-(aminooxy)ethanol by the general procedure of Example 1, Step E, then purified by flash column chromatography on silica (50% EtOAc/Hexane as eluant) to give 2-(4-butyl-2-fluoroanilino)-3,4-difluoro-N-(2-hydroxyethoxy)benzamide as a white solid (68%); m.p. (EtOAc/Hexane) 163-165° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.85 (br s, 1 H), 8.74 (br s, 1 H), 7.44-7.38 (m, 1 H), 7.14-7.06 (m, 1 H), 7.06-7.01 (m, 1 H), 6.88 (dd, J=8.3, 1.1 Hz, 1 H), 6.83 (ddd, J=8.4, 8.4, 4.2 Hz, 1 H), 4.73 (br s, 1 H), 3.87 (t, J=4.8 Hz, 2 H), 3.58 (t, J=4.8 Hz, 2 H), 2.52 (t, J=7.5 Hz, 2 H), 1.57-1.48 (m, 2 H), 1.29 (sextet, J=7.3 Hz, 2 H), 0.89 (t, J=7.3 Hz, 3 H). Anal. Calcd for C17H15F3N2O3: C, 59.7; H, 5.5; N, 7.3. Found C, 59.4; H, 5.4; N, 7.4.

reactant | 2-(4-butyl-2-fluoroanilino)-3,4-difluorobenzoic acid | C(CCC)C1=CC(=C(NC2=C(C(=O)O)C=CC(=C2F)F)C=C1)F | C17H16F3NO2
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
product | 2-(4-butyl-2-fluoroanilino)-3,4-difluoro-N-(2-hydroxyethoxy)benzamide | 68% | C(CCC)C1=CC(=C(NC2=C(C(=O)NOCCO)C=CC(=C2F)F)C=C1)F | C19H21F3N2O3
